US04414216
A mixture of 3.2 g of 2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran, 2.4 g of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one and 1.4 g of potassium carbonate in 60 ml of dimethylformamide is heated with stirring at 70° C. for 21 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by column chromatography on silica gel with chloroform eluant. The thus obtained purified crystals are treated with maleic acid and recrystallized from ethanol-water to give 8-[2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one maleate, melting at 175° C. with decomposition.

reactant | 2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran | 3.2 g | FC1=CC=C(C=C1)C1OCC(C1)CI | C11H12FIO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 2.4 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 8-[2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one maleate | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)C1OCC(C1)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C24H28FN3O2.C4H4O4/c25-20-8-6-19(7-9-20)22-14-18(16-30-22)15-27-12-10-24(11-13-27)23(29)26-17-28(24)21-4-2-1-3-5-21;5-3(6)1-2-4(7)8/h1-9,18,22H,10-17H2,(H,26,29);1-2H,(H,5,6)(H,7,8)/b;2-1-
